US05968954
Step 8: 1-(2,3-dihydro[1,4]benzoxathiin-5-yl)piperid-4-ol
0.35 g of the product of Step 8, 0.87 g of dicyclohexylcarbodiimide, 0.16 ml of pyridine, 4 ml of dimethyl sulphoxide and 7.5 ml of benzene are mixed at 5° C. 0.1 ml of trifluoroacetic acid is added dropwise and the whole is stirred at room temperature for 21 hours. Dilution is carried out with ethyl acetate, and insoluble material is filtered off. The filtrate is washed with water, dried, evaporated and purified on a silica column to yield 0.28 g of the expected title product.

reactant | dicyclohexylcarbodiimide | 0.87 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | pyridine | 0.16 ml | N1=CC=CC=C1 | C5H5N
reactant | dimethyl sulphoxide | 4 ml | CS(=O)C | C2H6OS
reactant | trifluoroacetic acid | 0.1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 7.5 ml | C1=CC=CC=C1 | C6H6
product | 1-(2,3-dihydro[1,4]benzoxathiin-5-yl)piperid-4-ol | 0.28 g | O1CCSC2=C1C=CC=C2N2CCC(CC2)O | C13H17NO2S
